US09340547B2
a) tert-Butyl (2S)-1-(3-bromo-2-(tetrahydro-2H-pyran-3-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
Same procedure as described in preparation 137a was used from (S)-methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (4.00 g, 10.25 mmols) and tetrahydro-2H-pyran-3-amine.HCl (2.12 g, 15.41 mmols). The title compound was obtained (2.24 g, 48%).

reactant | (S)-methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 10.25 mmols, 4.00 g | BrC1=C(N(C=C1)NC([C@H](C)NC(=O)OC(C)(C)C)=O)C(=O)OC | C14H20BrN3O5
reactant | tetrahydro-2H-pyran-3-amine | O1CC(CCC1)N | C5H11NO
reactant | HCl | 15.41 mmols, 2.12 g | Cl | ClH
product | tert-Butyl (2S)-1-(3-bromo-2-(tetrahydro-2H-pyran-3-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | BrC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC1COCCC1)=O | C18H27BrN4O5
